US07442710B2
Preparation 4-Methanesulfonyl-biphenyl-2-carboxylic acid
A mixture of 15 mmol 2-iodo-5-methanesulfonyl-benzoic acid, 31 mmol phenylboronic acid, 45 mmol sodium carbonate and 34 mg palladium(II)-acetate in 100 ml water is stirred at room temperature for 60 hours. The reaction mixture is acidified by careful addition of concentrated hydrochloric acid and extracted 3 times with ethyl acetate. The organic phase is dried, concentrated and the residue crystallized from diethyl ether to yield the title compound (3.87 g, 91%) as a slightlyyellow solid, MS (m/e): 275.0 (M−H+, 100%).

reactant | 2-iodo-5-methanesulfonyl-benzoic acid | 15 mmol | IC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7IO4S
reactant | phenylboronic acid | 31 mmol | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 45 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
catalyst | palladium(II)-acetate | 34 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Methanesulfonyl-biphenyl-2-carboxylic acid | 3.87 g, 91% | CS(=O)(=O)C=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C14H12O4S
